US05852028
Ethyl 4-hydrazino-2-trifluoromethylpyrimidine-5-carboxylate
A solution of ethyl 4-chloro-2-trifluoromethylpyrimidine-5-carboxylate (0.20 g, 0.79 mmol), hydrazine (0.18 g, 6.0 mmol) and THF was stirred for 1 h at room temperature. The solution was filtered and dried to give the title compound in a 96% yield; 1HNMR (CDCl3) δ 9.26 (s, 1H), 8.90 (s, 1H), 4.40 (q, 2H), 4.24 (bs, 2H), 1.41 (t, 3H).

reactant | ethyl 4-chloro-2-trifluoromethylpyrimidine-5-carboxylate | 0.79 mmol, 0.20 g | ClC1=NC(=NC=C1C(=O)OCC)C(F)(F)F | C8H6ClF3N2O2
reactant | hydrazine | 6.0 mmol, 0.18 g | NN | H4N2
solvent | THF | C1CCOC1 | C4H8O
product | Ethyl 4-hydrazino-2-trifluoromethylpyrimidine-5-carboxylate | 96% yield | N(N)C1=NC(=NC=C1C(=O)OCC)C(F)(F)F | C8H9F3N4O2
